US04001284
c. 2,4-diphenoxy-5-sulfamoyl-benzonitrile
A mixture of 251 g of 2,4-dichloro-5-sulfamoyl-benzonitrile (1.0 mol), 400 ml of dimethylformamide, 200 g of phenol and 80 g of sodium hydroxide was stirred for 3 hours at 130° C. The mixture was then allowed to cool to about 90° C and when its viscosity was low and it was turbid from precipitated NaCl, it was introduced into 10 l of water. After having been allowed to stand for 1 hour at room temperature, the light grey crystallized precipitate was suction-filtered, washed several times with water, and the product still moist after filtration was then recrystallized from isopropanol. The product was first dried in the air and then on a steam bath until its weight remained constant. The colorless crystals thus obtained still contained one mol-equivalent of isopropanol.

reactant | 2,4-dichloro-5-sulfamoyl-benzonitrile | 1.0 mol, 251 g | ClC1=C(C#N)C=C(C(=C1)Cl)S(N)(=O)=O | C7H4Cl2N2O2S
reactant | phenol | 200 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 80 g | [OH-].[Na+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 2,4-diphenoxy-5-sulfamoyl-benzonitrile | O(C1=CC=CC=C1)C1=C(C#N)C=C(C(=C1)OC1=CC=CC=C1)S(N)(=O)=O | C19H14N2O4S
